US07732456B2
(5) Preparation of 4-((E)-2-{4-[(2-methyl-2-propyl)oxy]phenyl}vinyl)-1-{4-[2-(1-pyrrolidinyl)ethoxy]pheny}-1H-pyridin-2-one
Step (3) of Example 12 was repeated except that 4-benzyloxy-1-(4-hydroxyphenyl)-1H-pyridin-2-one was replaced with 4-((E)-2-{4-[(2-methyl-2-propyl)oxy]phenyl}vinyl)-1-(4-hydroxyphenyl)-1H-pyridin-2-one, to provide the title compound.

reactant | 4-benzyloxy-1-(4-hydroxyphenyl)-1H-pyridin-2-one | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=CC=C(C=C1)O)=O | C18H15NO3
reactant | 4-((E)-2-{4-[(2-methyl-2-propyl)oxy]phenyl}vinyl)-1-(4-hydroxyphenyl)-1H-pyridin-2-one | CC(C)(C)OC1=CC=C(C=C1)/C=C/C1=CC(N(C=C1)C1=CC=C(C=C1)O)=O | C23H23NO3
product | 4-((E)-2-{4-[(2-methyl-2-propyl)oxy]phenyl}vinyl)-1-{4-[2-(1-pyrrolidinyl)ethoxy]pheny}-1H-pyridin-2-one | CC(C)(C)OC1=CC=C(C=C1)/C=C/C1=CC(N(C=C1)C1=CC=C(C=C1)OCCN1CCCC1)=O | C29H34N2O3
